US03983246
A solution of 34.8 g of hydroxylamine hydrochloride in 50 ml of water was added in one portion to a solution of 37.5 g of 4-ethoxybenzaldehyde in 100 ml of ethanol in a 500-ml Erlenmeyer flask equipped with a magnetic stirrer. The reaction mixture was stirred for approximately 5 minutes, until clear. A room-temperature solution of 15.2 g of sodium hydroxide in 20 ml of water was added in several portions during 15 minutes. The reaction mixture was stirred for 5 minutes and then heated to boiling. After the cloudy reaction mixture had cooled to room temperature, water was added and product separated from solution as an oil. The mixture was extracted four times with 50-ml portions of chloroform. The chloroform extracts were combined, washed twice with 75-ml portions of saturated aqueous sodium chloride solution and dried over sodium sulfate. The dry chloroform solution was filtered, the filtrate was evaporated, and the residue crystallized with a slight amount of cooling. The crude solid was recrystallized from cyclohexane to give 35.4 g of 4-ethoxybenzaldoxime, m.p. 81°-86°. The ir spectrum was consistent with the assigned structure.

reactant | hydroxylamine hydrochloride | 34.8 g | Cl.NO
reactant | 4-ethoxybenzaldehyde | 37.5 g | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | sodium hydroxide | 15.2 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-ethoxybenzaldoxime | 35.4 g | C(C)OC1=CC=C(C=NO)C=C1 | C9H11NO2
